US08222248B2
A mixture of 4-hydroxy-2,6-dimethyl-benzaldehyde (150 mg), chloroacetonitrile (0.1 mL), and Cs2CO3 (390 mg) in acetone (10 mL) was stirred at room temperature for 16 h. The mixture was concentrated, diluted with water, and extracted with EtOAc. The organic extracts were washed with brine, dried over Na2SO4, and concentrated in vacuo. Purification by column chromatography (SiO2, 3:1 hexane/EtOAc) gave (4-formyl-3,5-dimethyl-phenoxy)-acetonitrile.

reactant | 4-hydroxy-2,6-dimethyl-benzaldehyde | 150 mg | OC1=CC(=C(C=O)C(=C1)C)C | C9H10O2
reactant | chloroacetonitrile | 0.1 mL | ClCC#N | C2H2ClN
reactant | Cs2CO3 | 390 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (4-formyl-3,5-dimethyl-phenoxy)-acetonitrile | C(=O)C1=C(C=C(OCC#N)C=C1C)C | C11H11NO2
